Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
Iodinated Contrast- Oral and IV Dye
 
Attending: ___
 
Chief Complaint:
Hematuria 
 
Major Surgical or Invasive Procedure:
Left renal angioembolization 
Left ureteral stent exchange 

 
History of Present Illness:
Patient is a ___ female who presents as a transfer from ___ with persistent hematuria related to several recent
urological procedures to treat nephrolithiasis. 

The patient recently underwent URS and laser lithotripsy on
___ to treat a partial staghorn calculus. During the
procedure, the surgeon encountered significant bleeding which
required him to stop and place a stent. She was admitted for 2
days for CBI and was discharged and able to void without issue.
Hematuria slowly resolved over the coming days. Then she 
returned
with ESWL on ___. The evening of the procedure, she was unable
to void and was seen in the ED the following morning. A catheter
was placed and she states that they told her that old clot was
irrigated from the bladder and then the catheter was removed. 
She
was then sent home and still unable to void. A catheter was then
placed in the ED and she was started on CBI. She has been
continued on CBI for the past several days as her urologist has
been out of town. A CTA was obtained this morning which
demonstrated a likely pseudoaneurysm. Due to no ___ capabilities
at the facility, transfer was sought to ___ for definitive
care. 

Currently, she is doing well on CBI but states that every time
they try to turn down the fluid, that it darkens quickly and she
becomes uncomfortable. Denies fevers, chills, N/V, SOB, CP,
lightheadedness, dizziness. 

She has an extensive history of nephrolithiasis which started
about ___ years ago. The patient has undergone several URS/laser
litho procedures and over 10 ESWL procedures. No PCNL's. 
 
Past Medical History:
GERD                                                   
Endometriosis 
 
Social History:
___
Family History:
n/a
 
Physical Exam:
NAD, AVSS

Interactive, cooperative

Abdomen soft, Nt/Nd

Minimal L flank pain upon examination 

Lower extremities w/out edema or pitting and no report of calf 
pain

 
Pertinent Results:
___ 06:00AM BLOOD WBC-11.3* RBC-3.18* Hgb-8.4* Hct-27.7* 
MCV-87 MCH-26.4 MCHC-30.3* RDW-14.9 RDWSD-48.0* Plt ___
___ 07:20AM BLOOD WBC-13.2* RBC-2.97* Hgb-7.9* Hct-26.3* 
MCV-89 MCH-26.6 MCHC-30.0* RDW-15.5 RDWSD-50.5* Plt ___
___ 05:50AM BLOOD WBC-17.5* RBC-3.29* Hgb-8.8* Hct-28.5* 
MCV-87 MCH-26.7 MCHC-30.9* RDW-15.8* RDWSD-50.0* Plt ___
___ 07:20AM BLOOD Glucose-82 UreaN-16 Creat-1.1 Na-143 
K-4.2 Cl-107 HCO3-26 AnGap-10
___ 05:50AM BLOOD Glucose-114* UreaN-20 Creat-1.1 Na-142 
K-4.5 Cl-104 HCO3-25 AnGap-13
___ 06:10AM BLOOD Glucose-100 UreaN-16 Creat-1.0 Na-141 
K-4.9 Cl-104 HCO3-26 AnGap-11
 
Brief Hospital Course:
The patient was admitted to the Urology service under Dr. 
___. She was kept NPO overnight and continued on CBI after 
transfer from the OSH. On HD 2, she was taken to ___ for 
selective angioembolization of the identified renal 
pseudoaneurysm. This procedure was well tolerated. Afterwards, 
her abdominal and left flank pain remained significant. HD3, she 
was taken to the OR for cystoscopy, left ureteral stent 
exchange, and clot evacuation of the bladder. After the 
procedure, her pain was significantly improved. HD4 the CBI was 
clamped and the foley catheter was removed. She voided without 
complication and her pain remained minimal. She was discharged 
home on HD5 as she was tolerating a regular diet, pain was 
well-controlled with Tylenol alone, and she was voiding 
appropriately. 

She will decide in the coming days where she would like to 
follow up for definitive treatment. She will call the ___ 
clinic for follow up if needed and stent removal. It was also 
suggested to her to arrange for follow up with a nephrologist 
for a metabolic stone work up. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q12H 
2. Tamsulosin 0.4 mg PO QHS 
3. Oxybutynin 5 mg PO TID:PRN bladder spasms  

 
Discharge Medications:
1.  Oxybutynin 5 mg PO TID:PRN bladder spasms   
2.  Pantoprazole 40 mg PO Q12H  
3.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left renal pseudoaneurysm
Dislodged left ureteral stent 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the indwelling ureteral stent. 

-You may experience some pain associated with spasm of your 
ureter.; This is normal. Take pain medication as prescribed if 
additional pain relief is needed.

-Ureteral stent MUST be removed or exchanged and therefore it is 
IMPERATIVE that you follow-up as directed. 

-Do not lift anything heavier than a phone book (10 pounds) 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen. 

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

 
Followup Instructions:
___